US06492562B1
H. (±)-N-[(2R*,3S*)-(2,5-Dimethyl-3-hydroxyhexanoyl)]-2-benzoxazolone
Prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with 3-methylbutanal. 1H-NMR (CDCl3, 400 MHz): δ 8.06 (m, 1H); 7.25 (m, 3H); 4.17 (m, 1H); 3.91 (dq, 1H, J=3,7); 2.52 (br s, 1H); 1.82 (m, 1H); 1.56 (ddd, 1H, J=5,9,13); 1.31 (d, 3H, J=7); 1.25 (ddd, 1H, J=4,6,13); 0.95 (d, 3H, J=7); 0.94 (d, 3H, J=7).

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | 3-methylbutanal | CC(CC=O)C | C5H10O
product | (±)-N-[(2R*,3S*)-(2,5-Dimethyl-3-hydroxyhexanoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](CC(C)C)O | C15H19NO4
